US09108969B2
Step A: Preparation of Ethyl 2-(2-(4-Isopropoxy-3-(trifluoromethyl)benzyloxy)-6,7,8,9-tetrahydropyrido[1,2-a]indol-9-yl)acetate
Ethyl 2-(2-hydroxy-6,7,8,9-tetrahydropyrido[1,2-a]indol-9-yl)acetate (0.107 g, 0.391 mmol) was dissolved in anhydrous DMF (3.91 mL, 0.391 mmol). Cesium carbonate (0.166 g, 0.509 mmol) was added followed by 4-(chloromethyl)-1-isopropoxy-2-(trifluoromethyl)benzene (0.122 mL, 0.587 mmol) to give a suspension. The reaction was heated at 50° C. for 5 h. The solvent was evaporated in vacuo to give a residue which was dissolved in EtOAc (50 mL) and water (20 mL). The organic layer was washed with water (20 mL), brine (20 mL), and dried over MgSO4. The solvent was evaporated in vacuo to give an oil which was purified by silica gel column chromatography to give the title compound as an oil (0.154 g). LCMS m/z=490.4 [M+H]+; 1H NMR (400 MHz, Acetonitrile-d3) α ppm 1.24 (t, J=7.14 Hz, 3H), 1.32 (d, J=6.06 Hz, 6H), 1.50-1.64 (m, 1H), 2.1 (m, 3H), 2.55 (dd, J=15.73, 8.02 Hz, 1H), 2.86 (dd, J=15.66, 5.94 Hz, 1H), 3.33-3.47 (m, 1H), 3.79-3.88 (m, 1H), 4.06-4.21 (m, 3H), 4.74 (dt, J=12.09, 6.02 Hz, 1H), 5.04 (s, 2H), 6.13 (s, 1H), 6.81 (dd, J=8.78, 2.46 Hz, 1H), 7.04 (d, J=2.40 Hz, 1H), 7.16 (d, J=8.59 Hz, 1H), 7.19 (d, J=8.84 Hz, 1H), 7.62 (d, J=8.59 Hz, 1H), 7.66 (d, J=1.89 Hz, 1H).

reactant | Ethyl 2-(2-hydroxy-6,7,8,9-tetrahydropyrido[1,2-a]indol-9-yl)acetate | 0.391 mmol, 0.107 g | OC=1C=C2C=C3N(C2=CC1)CCCC3CC(=O)OCC | C16H19NO3
reactant | DMF | 0.391 mmol, 3.91 mL | CN(C)C=O | C3H7NO
reactant | Cesium carbonate | 0.509 mmol, 0.166 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-(chloromethyl)-1-isopropoxy-2-(trifluoromethyl)benzene | 0.587 mmol, 0.122 mL | ClCC1=CC(=C(C=C1)OC(C)C)C(F)(F)F | C11H12ClF3O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | water | 20 mL | O | H2O
product | Ethyl 2-(2-(4-Isopropoxy-3-(trifluoromethyl)benzyloxy)-6,7,8,9-tetrahydropyrido[1,2-a]indol-9-yl)acetate | 0.154 g | C(C)(C)OC1=C(C=C(COC=2C=C3C=C4N(C3=CC2)CCCC4CC(=O)OCC)C=C1)C(F)(F)F | C27H30F3NO4
